US07674804B2
2-Chloro-6-(piperidin-4-ylamino)-pyrimidine-4-carboxylic acid methyl ester dihydrochloride
A solution of 6-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-2-chloro-pyrimidine-4-carboxylic acid methyl ester (3.46 g, 9.34 mmol) in ethanol (50 mL) and 4 M HCl in dioxane (75 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 271.1 [M+H]+.

reactant | 6-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-2-chloro-pyrimidine-4-carboxylic acid methyl ester | 9.34 mmol, 3.46 g | COC(=O)C1=NC(=NC(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C16H23ClN4O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-6-(piperidin-4-ylamino)-pyrimidine-4-carboxylic acid methyl ester dihydrochloride | Cl.Cl.COC(=O)C1=NC(=NC(=C1)NC1CCNCC1)Cl | InChI=1S/C11H15ClN4O2.2ClH/c1-18-10(17)8-6-9(16-11(12)15-8)14-7-2-4-13-5-3-7;;/h6-7,13H,2-5H2,1H3,(H,14,15,16);2*1H
